US06953857B2
(ii) 3-Hydroxy-5-methoxy-4-methyl-benzoic acid methyl ester
5.1 g (28.2 mmol) of 3,5-Dihydroxy-4-methyl-benzoic acid methyl ester was dissolved in 100 ml of DMF and treated at 0° C. with 7.8 g (56.4 mmol) of potassium carbonate and 4.0 g (28.2 mmol) of methyl iodide. The solution was stirred for 16 h at RT. The solvent was removed under reduced pressure, the residue was taken-up in ethyl acetate and the solution was washed three times with water and twice with saturated aqueous sodium chloride. The organic phase was dried with magnesium sulphate, filtered and the solvent was removed under reduced pressure. The compound was purified by preparative RP-HPLC eluting with a gradient of 0 to 100% acetonitrile in water (+0.01% trifluoroacetic acid).

reactant | 3,5-Dihydroxy-4-methyl-benzoic acid methyl ester | 28.2 mmol, 5.1 g | COC(C1=CC(=C(C(=C1)O)C)O)=O | C9H10O4
reactant | potassium carbonate | 56.4 mmol, 7.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 28.2 mmol, 4.0 g | CI | CH3I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-Hydroxy-5-methoxy-4-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)C)O)=O | C10H12O4
